US07470723B2
To a solution of cyanomethylphosphonic acid diethyl ester (2.1 mL, 13.5 mmol) in anhydrous THF (15 mL) was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 13.5 mL, 13.5 mmol) at 0° C. and stirred for 30 min at room temperature followed by addition of (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-methoxy-phenyl)-methanone (2.0 g crude, 6.7 mmol) in THF (15 mL) and refluxed for 30 min. The reaction mixture was poured into water (50 mL), extracted with CH2Cl2 (2×50 mL). The combined organic phases were washed with brine (50 mL), dried over MgSO4, and purified via flash column chromatography (EtOAc, Hexane) to give 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-3-(3-methoxy-phenyl)-acrylonitrile as an off-white solid (1.53 g, 77% yield): mp, 64-66° C.; 1H NMR (DMSO-d6) δ 3.77 and 3.78 (2s, 3H, OCH3), 4.24-4.36 (m, 4H, CH2CH2), 6.19 and 6.24 (2s, 1H, CH), 6.77-7.09 (m, 6H, Ar), 7.33-7.36 (m, 1H, Ar); 13C NMR (DMSO-d6) δ 55.2, 55.2, 64.0, 64.0, 64.2, 64.3, 94.3, 95.2, 113.7, 114.6, 114.9, 115.8, 116.7, 117.1, 117.2, 117.9, 118.3, 120.9, 121.2, 121.7, 122.5, 129.7, 129.8, 129.8, 130.6, 138.5, 139.7, 143.1, 143.3, 144.8, 145.6, 159.1, 159.2, 160.8, 160.9. Anal. Calcd for C18H15NO3: C, 73.71; H, 5.15; N, 4.78. Found: C, 73.48; H, 4.84; N, 4.64.

reactant | cyanomethylphosphonic acid diethyl ester | 13.5 mmol, 2.1 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 13.5 mmol, 1.0 M, 13.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3-methoxy-phenyl)-methanone | 6.7 mmol, 2.0 g | O1CCOC2=C1C=CC(=C2)C(=O)C2=CC(=CC=C2)OC | C16H14O4
reactant | water | 50 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-3-(3-methoxy-phenyl)-acrylonitrile | 1.53 g, 77% yield | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC=C2)OC | C18H15NO3
